US06348477B1
2-(phenylmethyl)amino-N-phenylmethyl-N-{1(S)-phenylethyl}acetamide hydrochloride: By following the procedure of Example 1(a) but replacing dibenzylamine with α(S)-methyl-N-(phenylmethyl)benzene methanamine, ((S)-N-benzyl-α-methylbenzylamine, Oxford Asymmetry Ltd., Abingdon Oxon, UK), tert-butyl N-{2-oxo-2-{(phenylmethyl)1(S)-phenylethyl}amino}ethyl}carbamate was made. The Boc group was removed following the procedure of Example 1(b) to give N-{2-oxo-2-{(phenylmethyl)(1(S)-phenylethyl}amino}ethyl}carbamate hydrochloride, which was subjected to reductive amination with benzaldehyde according the procedure of R. F. Borch, Org. Synth., 1972, 52, 124, to give 2-(phenylmethyl)amino-N-phenylmethyl-N-{1(S)-phenylethyl}acetamide hydrochloride.

reactant | 2-(phenylmethyl)amino-N-phenylmethyl-N-{1(S)-phenylethyl}acetamide hydrochloride | Cl.C1(=CC=CC=C1)CNCC(=O)N([C@@H](C)C1=CC=CC=C1)CC1=CC=CC=C1
reactant | α(S)-methyl-N-(phenylmethyl)benzene methanamine | C[C@H](NCC1=CC=CC=C1)C1=CC=CC=C1 | C15H17N
reactant | carbamate | C(N)([O-])=O
product | N-{2-oxo-2-{(phenylmethyl)(1(S)-phenylethyl}amino}ethyl}carbamate hydrochloride | Cl.O=C(CNC(O)=O)N([C@@H](C)C1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C18H20N2O3.ClH/c1-14(16-10-6-3-7-11-16)20(17(21)12-19-18(22)23)13-15-8-4-2-5-9-15;/h2-11,14,19H,12-13H2,1H3,(H,22,23);1H/t14-;/m0./s1
